US08981111B2
To a solution of 5-bromo-1-methyl-1H-imidazole (10 g, 62 mmol) in dichloromethane (50 mL) was added dropwise ethylmagnesium bromide (3 M in Et2O, 20.7 mL, 62 mmol). After stirring at room temperature for 15 min, the reaction mixture was cooled down to 0° C. with an ice-brine bath and N-methoxy-N-methylbenzamide (9.46 mL, 62 mmol) was added dropwise. The mixture was stirred for 2 h at room temperature. After standing for one night at room temperature, the mixture is worked-up by addition of water (150 mL), then acidified with aq. HCl (1 M) until pH=7. After extraction with dichloromethane (2×100 mL), the organic layers were washed with water (100 mL) then dried over MgSO4 and concentrated in vacuo. The resulting orange solid was washed with pentane to afford (1-methyl-1H-imidazol-5-yl)(phenyl)methanone [8.50 g, yield 66%; HPLC/MS: m/z=187 (M+H); log P(HCOOH)=0.79].

reactant | 5-bromo-1-methyl-1H-imidazole | 62 mmol, 10 g | BrC1=CN=CN1C | C4H5BrN2
reactant | ethylmagnesium bromide | 62 mmol, 3 M, 20.7 mL | C(C)[Mg]Br
reactant | N-methoxy-N-methylbenzamide | 62 mmol, 9.46 mL | CON(C(C1=CC=CC=C1)=O)C | C9H11NO2
reactant | HCl | 1 M | Cl | ClH
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 150 mL | O | H2O
product | (1-methyl-1H-imidazol-5-yl)(phenyl)methanone | 8.50 g, yield 66% | CN1C=NC=C1C(=O)C1=CC=CC=C1 | C11H10N2O
